US08461328B2
To a solution of Methyltriphenylphosphonium iodide (1.0 g, 2.5 mmol) in tetrahydrofuran (10 mL) was added slowly n-butyllithium (2.5 M in diethyl ether, 1 mL, 2.5 mmol) at −78° C., then the reaction mixture was stirred for 1 hour under nitrogen. To the reaction mixture was added 4-(6-Benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclohexanone (400 mg, 1.01 mmol) slowly, then the reaction mixture was stirred for 3 hours under nitrogen and quenched with saturated aqueous ammonium chloride. The mixture was extracted with ethyl acetate. The organic phase was concentrated under reduce pressure to give 200 mg (76%) of 6-Benzenesulfonyl-1-(4-methylene-cyclohexyl)-1,6-dihydro-1,2,3,5,6-pentaaza-as-indacene. 1H NMR (400 MHz, DMSO-d6): δ: 9.18 (s, 1H), 8.15-8.12 (m, 3H), 7.72-7.68 (m, 1H), 7.63-7.59 (m, 2H), 7.44-7.43 (m, 1H), 5.22 (s, 1H), 4.76 (s, 2H), 2.49-2.41 (m, 4H), 2.26-2.23 (m, 2H), 2.05-2.02 (m, 2H).

reactant | Methyltriphenylphosphonium iodide | 2.5 mmol, 1.0 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 2.5 mmol, 2.5 M, 1 mL | C(CCC)[Li]
reactant | 4-(6-Benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclohexanone | 1.01 mmol, 400 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=NC=C3N=NN(C3=C2C=C1)C1CCC(CC1)=O | C19H17N5O3S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 6-Benzenesulfonyl-1-(4-methylene-cyclohexyl)-1,6-dihydro-1,2,3,5,6-pentaaza-as-indacene | 200 mg, 76% | C1(=CC=CC=C1)S(=O)(=O)N1C2=NC=C3N=NN(C3=C2C=C1)C1CCC(CC1)=C | C20H19N5O2S
